US06506762B1
G. 5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-ylamine
Add palladium hydroxide (0,05 g) to a solution of [2,5-dimethyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]benzylamine (0.15 g, 0.42 mmol) in acetic acid (10 mL). Hydrogenate the mixture at a pressure of 50 psi for 20 hr. Filter the reaction mixture through celite, evaporate to dryness under reduced pressure, dilute with EtOAc and successively wash with aq NaHCO3 and aq NaCl. Dry the organic layer over Na2SO4, filter, and concentrate. Purify by flash column chromatography (3% MeOH in CH2Cl2) to obtain the title compound as a brown solid.

reactant | [2,5-dimethyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]benzylamine | 0.42 mmol, 0.15 g | CC=1N(C2=NC(=CC(=C2N1)NCC1=CC=CC=C1)C)C1=C(C=C(C=C1C)C)C | C24H26N4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 0,05 g | [OH-].[Pd+2].[OH-]
product | 5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-ylamine | CC1=CC(=C2C(=N1)N(C=N2)C2=C(C=C(C=C2C)C)C)N | C16H18N4
